US06987194B2
Step A Synthesis of 5-amino-2,2-dimethyl-2,3-dihydrobenzo[2,3-b]furan-7-yl acetate as an Intermediate
A mixture of 3.5 grams (0.014 mole) of 2,2-dimethyl-5-nitro-2,3-dihydrobenzo[2,3-b]furan-7-yl acetate (known compound) and a catalytic amount of 10% palladium on carbon in 125 mL of ethanol was subjected to hydrogenation conditions using a Parr Hydrogenator. Upon completion of the uptake of the theoretical amount of hydrogen, the reaction mixture was filtered and concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel using methylene chloride, followed by 5% methanol in methylene chloride as eluants. The appropriate fractions were combined and concentrated under reduced pressure, yielding 2.7 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 2,2-dimethyl-5-nitro-2,3-dihydrobenzo[2,3-b]furan-7-yl acetate | 0.014 mole, 3.5 grams | C(C)(=O)OC1=CC(=CC2=C1OC(C2)(C)C)[N+](=O)[O-] | C12H13NO5
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | 125 mL | C(C)O | C2H6O
product | 5-amino-2,2-dimethyl-2,3-dihydrobenzo[2,3-b]furan-7-yl acetate | 2.7 grams | C(C)(=O)OC1=CC(=CC2=C1OC(C2)(C)C)N | C12H15NO3
